US09102692B2
(2-Chloro-methoxy-ethyl)-trimethyl-silane (1.1 ml, 6.4 mmol, 1.5 eq.) was added to an anhydrous dichloromethane solution (22 ml) of 6-bromo-2-difluoromethyl-1H-benzimidazol (1.0 g, 4.27 mmol) and N,N-diisopropyl ethyl amine (1.9 ml, 10.6 mmol, 2.5 eq.). This was stirred at room temperature for 18 hours. The reaction mixture was concentrated. The residue obtained by concentration under reduced pressure was purified by silica gel column chromatography. Thus, 6-bromo-2-difluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole was obtained as a yellow solid (1.37 g, 85%).

reactant | (2-Chloro-methoxy-ethyl)-trimethyl-silane | 6.4 mmol, 1.1 ml, 1.5 eq. | ClC(C[Si](C)(C)C)OC | C6H15ClOSi
reactant | 6-bromo-2-difluoromethyl-1H-benzimidazol | 4.27 mmol, 1.0 g | BrC=1C=CC2=C(NC(=N2)C(F)F)C1 | C8H5BrF2N2
reactant | N,N-diisopropyl ethyl amine | 10.6 mmol, 1.9 ml, 2.5 eq. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 22 ml | ClCCl | CH2Cl2
product | 6-bromo-2-difluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole | BrC=1C=CC2=C(N(C(=N2)C(F)F)COCC[Si](C)(C)C)C1 | C14H19BrF2N2OSi
